Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
seasonal allergies / Bactrim / gluten / lactose
 
Attending: ___.
 
Chief Complaint:
Progressive weakness and difficulty walking
 
Major Surgical or Invasive Procedure:
___ LP
 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with a past 
medical history of reported common variable immunodeficiency 
being treated with IgG infusions and possible Celiac Disease who 
presents with progressive weakness, sensory change and gait 
dysfunction.

To review his history in brief, ___ was diagnosed with CVID 
roughly ___ year ago in the setting of recurrent and frequent (per 
patient sinus) infections and has since been treated with IgG 
infusions.  His baseline symptoms since that time consist of 
frequent infections, general malaise and for the past year or 
so- intermittent pleurisy.

His neurologic history begins in ___, when ___ noted 
onset of left foot drop while walking to work.  That same day ___ 
noted left hand clumsiness, mild sensory change/numbness and 
left lateral leg numbness. In the hand, ___ recalls that the 
sensory change was worse in the medial aspects.

 ___ alerted his PCP and the followed day presented to the 
___ where ___ was admitted. Per prior documentation ___ was 
treated for a "non-specific infectious process" without 
improvement.  I am told ___ was on acyclovir for part of that 
admission while work-up was being done.  ___ underwent reportedly 
unrevealing MRI of Brain and pan spine (with contrast) and 
eventually an LP which revealed elevated WBC (19 and 21), 95% 
Lymphs, protein 102, Glc 77.  Symptoms were stable and ___ was 
discharged with outpatient neurology follow-up.  I am told no 
formal diagnosis was made.

In ___, ___ was seen in our Neurology Clinic with continued 
symptoms and referred for EMG.  In the interim, ___ was also seen 
by rheumatology for a previously positive ___, but subsequent 
evaluation appears benign.  Per documentation, positive ___ may 
have been due to SQ IgG patient receives for his CVID.

However, while awaiting outpatient EMG symptoms progressed.  
Initially confined to his left side, ___ began to insidiously 
feel onset of weakness and sensory change on the right.  ___ 
noted a right foot drop and had gradual onset of walking 
difficulties. His sensory symptoms progressed more diffusely in 
his left leg as well as spread to the right leg.  They now 
involve the whole of both legs, but appear worst laterally.  His 
exercise tolerance worsened and ___ now attempts to work from 
home.  Due to his gait changes ___ walks with a cane when out of 
the house. 

Around the same time, his right hand began to decreased 
sensation and now also feels clumsy.  Currently, ___ feels 
sensation is worse in the pinky and ring finger of his b/l 
hands.  Both of his hands feel clumsy and slow and ___ has 
dropped objects multiple times.  As a ___, ___ now has 
trouble taping his fingers to a beat.  ___ has trouble holding 
his children

Additionally, for the past several weeks they have noticed an 
intermittent tremor (at rest and action).  While ___ has 
intermittently had action tremor earlier in life, they feel this 
is new and worsening.

Concerned, ___ contacted his neurologist who recommended ___ 
present to our ___.

Of note, ___ denies pre-syncopal symptoms, change in sweating, 
trouble with his bowel or bladder and impotence.  There has been 
no sudden (or stepwise) changes, merely slow progression.  
Nothing clearly improves or worsens his symptoms.

RoS: Notable for chronic joint pain.  His muscles chronically 
feel exhausted with occasional myalgias.  ___ notes decreased 
hearing in his right ear (may be chronic).  ___ reports 
subjective difficulty remembering people names.  ___ reports 
urinary frequency in the setting of significant water intake.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  No bowel or bladder 
incontinence or retention. 

On general review of systems, the pt denies recent fever or 
chills.  Denies cough, shortness of breath.  Denies chest pain 
or tightness, palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  

Previous Lab evaluation per prior documentation:
Imaging:
MRIs of the brain, Cervical, Thoracic and Lumbar spine reviewed.
No demyelinating or other lesions seen. 

Labs:

CSF ___
WBC tube 1: 19
WBC tube 4: 21
95% Lymphocytes
Protein: 102
Glucose: 77
CSF IgG index: 0.47
IgG synthesis index: -2.0
Cryptococcus: negative
HSV 1 and 2: negative
Fungal culture: negative
Lyme CSF: negative 

Serum: ___ 1:80, Speckled pattern
Cardiolipin Ab: Negative
Beta-2 glycoprotein IgG and IgM: negative
Vitamin B12: 296
MMA: 77 (low)

DRVVT mixing study: weakly positive, compatible with a weak 
Lupus
Anticoagulant

 
Past Medical History:
- "Likely Celiacs" based on prior blood work, gluten free for ___ 
years
- CVID - reports had numerous and frequent sinus infections 
prior to receiving standing routine subcutaneous IgG
- Allergies
 
 
Social History:
___
Family History:
- No family hx of neurologic illness.  Endorses family history 
of tremor, unclear.  No known rheumatologic hx or amutoimmune 
hx.
 
Physical Exam:
**ADMISSION PHYSICAL EXAMINATION**
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR, nl. S1S2
Abdomen: soft, NT/ND.
Extremities: WWP.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Speech 
was not dysarthric. Able to follow both midline and appendicular 
commands. Pt was able to register 3 objects and recall ___ at 5 
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch and pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Mild decrease to hearing finger rub on right.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally, but arms coarsely tremor during extension 2( due to 
fatigue).

Motor exam is difficult.  There appears to be true weakness, but 
there is a frequency component of ratcheting and possible 
give-away.  For example, during exam I am able to move his 
___, but ___ is later able to toe walk without significant 
difficulty.  

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-    5-  ___-  5    4+ 4     5-*   4   5-
R  5 -   5-  ___-  5    4+ 4+    5-*   4+  5-

Hip Abduction appears full strength, perhaps weakness versus 
give away with Adduction.  

-Sensory: Complex exam.  In the RUE, three is essentially 
decreased sensartion to light touch and pinprick to 80% of 
normal throughout the limb, including the hand.  In the LUE, 
there is decreased sensation to light touch and pinprick roughly 
70% of normal throughout.

In the lower extremities, it is similar.  There is a general 
decrease in sensation proximally, with reported gradation 
distally to roughly 50% of normal sensation to lightouch and 
pinprick.  This sensory symptom is worse laterally.

Proprioception in intact at his great toes.  Graphesthesia 
intact at his b/l palms.

There is no sensory change in trunk or face.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.
+ Cross at b/l Knees

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.  There is a symmetric 
slowing of hand opening-closing without dysrhythmia.

-Gait: Good initiation. Narrow-based, steppage gait.  Can walk 
on toes.  Able to raise up on heels, but difficult.  Able to 
walk in tandem without difficulty. Romberg absent.

***DISCHARGE PHYSICAL EXAMINATION**
General: Awake, cooperative, NAD.
HEENT: NC/AT, glasses in place, no conjunctival injection, MMM
Neck: Supple. No nuchal rigidity
Pulmonary: No increased WOB 
Cardiac: No cyanosis
Abdomen: No distension
Extremities: Well-perfused

Neurologic:

-Mental Status: Alert, conversant. Able to relate history 
without difficulty. Attentive. Language is fluent with intact 
comprehension. Normal prosody. There were no paraphasic errors. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  EOMI without nystagmus. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to voice
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout.

Strength is intact throughout with mild (but improved from 
prior) shaking give-away, more appreciable throughout on the 
left as compared to the right.    

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   5    ___   5    5  5    5     5   5
R  5    ___   5    ___   5    5  5    5     5   5

-DTRs: toes ___

-___: No intention tremor. 
-Gait: Deferred. Day prior to discharge patient with good 
initiation, narrow-based, in-toeing, some trembling and 
unsteadiness with heel and toe-walking but able to perform, 
again with in-toeing. 
 
Pertinent Results:
___ 11:35PM BLOOD WBC-5.4 RBC-4.37* Hgb-13.7 Hct-39.4* 
MCV-90 MCH-31.4 MCHC-34.8 RDW-12.1 RDWSD-38.9 Plt ___
___ 08:45AM BLOOD WBC-5.8 RBC-4.66 Hgb-14.7 Hct-41.8 MCV-90 
MCH-31.5 MCHC-35.2 RDW-12.4 RDWSD-39.8 Plt ___
___ 05:10AM BLOOD ___
___ 11:35PM BLOOD Plt ___
___ 11:35PM BLOOD Glucose-97 UreaN-14 Creat-0.8 Na-139 
K-3.8 Cl-103 HCO3-26 AnGap-14
___ 11:35PM BLOOD ALT-31 AST-35 LD(LDH)-176 AlkPhos-77 
TotBili-0.4
___ 08:45AM BLOOD ALT-30 AST-37 CK(CPK)-101 AlkPhos-85 
TotBili-0.5
___ 11:35PM BLOOD TotProt-7.1 Albumin-4.3 Globuln-2.8 
Calcium-9.1 Phos-3.7 Mg-2.0
___ 11:35PM BLOOD VitB12-320 Folate-12.1
___ 11:35PM BLOOD %HbA1c-PND
___ 11:35PM BLOOD HBsAb-PND HBcAb-PND
___ 11:35PM BLOOD ANCA-PND
___ 11:35PM BLOOD ___
___ 11:35PM BLOOD CRP-2.3
___ 11:35PM BLOOD PEP-PND
___ 11:35PM BLOOD HIV Ab-Negative

MRI C/T/L spine ___:
1. Mild degenerative changes in the thoracic and lumbar spine
above. 
2. No evidence for spinal cord lesion. 
3. Probable hepatic cyst or hemangioma. 

 
Brief Hospital Course:
Patient was admitted to the ___ General Neurology service for 
evaluation of weakness, difficulty ambulating. On initial 
examinations, patient noted to have inconsistent effort and 
examination without any particular pattern of localization. On 
review of his prior work-up, ___ had had a mild lymphocytic 
pleocytosis on prior LP with subsequent MRI showing spinal nerve 
root enhancement. Repeat MRI of the C/T/L spine with and without 
contrast obtained during this admission was unremarkable without 
evidence of enhancement. It was felt that prior nerve root 
enhancement may have been post-LP-related. Patient had repeat LP 
during this admission (was initially attempted at the bedside 
but patient had difficulty tolerating so was obtained as 
___ procedure); this showed protein 59 and glucose 68, 12 
WBC (38% pmns) and ___ RBC in tube 4. Gram stain negative; 
culture was pending at the time of discharge. Serum work-up for 
inflammatory, infectious, toxic/metabolic, endocrine or other 
causes included CBC with WBC 5.4, normal chemistry, CRP (2.3), 
___ (negative), ANCA (negative), HIV (negative), HBV (HBsAb 
positive (indicating immunity to HBV); HBcAb pending), RPR 
(non-reactive), Lyme Western Blot (pending), SPEP (pending), 
HbA1c (4.9), LDH (176), vitamin B12 (320), folate (12.1), total 
protein (7.3), albumin (4.3), globulin (2.8), LFTs wnl, urine 
culture (negative), urine tox (negative). Patient had an EMG 
during his hospitalization which was normal. It was felt that 
mild pleocytosis in the CSF may be due to chemical meningitis 
due to IgG. Patient was noted to improve over the course of his 
hospitalization. It was felt that ___ will continue to improve as 
an outpatient. ___ worked with ___ who felt ___ was able to 
ambulate independently; they recommended continuing outpatient 
___. Patient was instructed to discuss with his outpatient 
providers whether to continue his IgG treatments. 
 
Medications on Admission:
- Symbicort BID
- QNasal (nasal spray)
- IMMUN GLOB G(IGG)-PRO-IGA ___ [___] - Dosage uncertain - 

(Prescribed by Other Provider: 10 MG)Entered by MA/Other Staff
- Cetirizine 10 mg PO daily
 
Discharge Medications:
- Symbicort BID
- QNasal (nasal spray)
- IMMUN GLOB G(IGG)-PRO-IGA ___ [___] - Dosage uncertain - 

(Prescribed by Other Provider: 10 MG)Entered by MA/Other Staff
- Cetirizine 10 mg PO daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chemical meningitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. Continue outpatient 
___. 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for lower extremity weakness and difficulty 
walking. You had an MRI of your spine which was normal and did 
not show any explanation for your symptoms. You had blood lab 
work to look for any cause of your symptoms and did not show any 
evidence of infection, inflammation, vitamin deficiency or any 
other explanation. You also had an EMG (test looking at your 
muscles and muscle activation) which was normal. You had a 
lumbar puncture was also normal once corrected for the number of 
red blood cells present. Your symptoms improved over the course 
of your admission. You should discuss with your outpatient team 
the risks and benefits of IgG given the cells previously seen in 
your spinal fluid may have been due to IgG (chemical 
meningitis). 

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___